US04499299
b. 4-(4-Acetyl-3-hydroxy-6-iodo-2-propylphenoxy)methylbenzoic acid
A solution of 245 mg (0.523 mmoles) of methyl 4(-4-acetyl-3-hydroxy-6-iodo-2-propylphenoxy)methylbenzoate in 3 ml of tetrahydrofuran and 0.8 ml of water was treated with 110 mg (2.62 mmoles) of LiOH.H2O and stirred at 22° C. for one hour. The temperature was brought to 55° C. and 3 ml of MeOH was added after 2 hours of reaction. After a total reaction time of 31/2 hours, the mixture was allowed to cool, diluted with water, acidified by addition of concentrated HCl and extracted with dichloromethane. The combined extracts were washed with water, dried over MgSO4 and evaporated to give 217 mg of white powder mp 167°-168.5° C.

reactant | methyl 4(-4-acetyl-3-hydroxy-6-iodo-2-propylphenoxy)methylbenzoate | 0.523 mmoles, 245 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C(=O)OC)C=C2)C(=C1)I)CCC)O | C20H21IO5
reactant | LiOH.H2O | 2.62 mmoles, 110 mg | O[Li].O
reactant | MeOH | 3 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 0.8 ml | O | H2O
product | 4-(4-Acetyl-3-hydroxy-6-iodo-2-propylphenoxy)methylbenzoic acid | 217 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C(=O)O)C=C2)C(=C1)I)CCC)O | C19H19IO5
